US06489476B1
A suspension of 2-[N-Boc(amino)]-5-vinyl-4-diethylphosphonomethoxycarbonyl thiazole (1 mmole) and 10% Pd/C (0.5 mmole) in MeOH (5 mL) was stirred under an atmosphere of H2 (balloon) at room temperature for 15 h. Filtration and evaporation gave 2-[N-Boc(amino)]-5-ethyl-4-diethylphosphonomethoxycarbonylthiazole as a yellow solid, which was subjected to Step D of Example 18 followed by Step C of Example 3 to give 2-amino-5-ethyl-4-phosphonomethoxycarbonylthiazole (18.3) as a solid. Mp>230° C. (decomp). Anal. Calcd. for C7H11N2O5PS: 31.58; H: 4.16; N: 10.52. Found: C: 31.80; H: 4.04; N: 10.18.

reactant | 2-[N-Boc(amino)]-5-vinyl-4-diethylphosphonomethoxycarbonyl thiazole | 1 mmole | C(=O)(OC(C)(C)C)NC=1SC(=C(N1)C(=O)OCP(=O)(OCC)OCC)C=C | C16H25N2O7PS
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 0.5 mmole | [Pd] | Pd
product | 2-[N-Boc(amino)]-5-ethyl-4-diethylphosphonomethoxycarbonylthiazole | C(=O)(OC(C)(C)C)NC=1SC(=C(N1)C(=O)OCP(=O)(OCC)OCC)CC | C16H27N2O7PS
